US08039450B2
6-(4-Bromo-3-formyl-phenoxy)-2-cyclopentyloxy-nicotinonitrile (4)
To a mixture of 6-chloro-2-cyclopentyloxy-nicotinonitrile (1.32 g, 5.92 mmol) and 2-bromo-5-hydroxy-benzaldehyde (1.43 g, 7.10 mmol) in DMF (10 mL) was added potassium carbonate (1.22 g, 8.88 mmol). The resulting mixture was heated at 69° C. overnight. DMF was removed under reduced pressure, the residue was diluted with EtOAc (100 mL), washed with water (30 mL) and brine (30 mL), dried over Na2SO4, filtered, and concentrated to give white solid, which was purified by flash chromatography on silica gel using 10-25% EtOAc/hexanes as eluent to yield the title compound (2.30 g, quantitative) as white solid. 1H NMR (400 MHz, DMSO-d6) δ 10.19 (s, 1H), 8.24 (d, J=8.2 Hz, 1H), 7.88 (d, J=8.6 Hz, 1H), 7.70 (s, 1H), 7.60-7.46 (m, 1H), 6.79 (d, J=8.2 Hz, 1H), 4.95 (br. s., 1H), 1.87-1.50 (m, 6H), 1.52-1.30 (m, 2H).

reactant | 6-chloro-2-cyclopentyloxy-nicotinonitrile | 5.92 mmol, 1.32 g | ClC1=NC(=C(C#N)C=C1)OC1CCCC1 | C11H11ClN2O
reactant | 2-bromo-5-hydroxy-benzaldehyde | 7.10 mmol, 1.43 g | BrC1=C(C=O)C=C(C=C1)O | C7H5BrO2
reactant | potassium carbonate | 8.88 mmol, 1.22 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 6-(4-Bromo-3-formyl-phenoxy)-2-cyclopentyloxy-nicotinonitrile | 2.30 g | BrC1=C(C=C(OC2=NC(=C(C#N)C=C2)OC2CCCC2)C=C1)C=O | C18H15BrN2O3
